US09302991B2
<Step-2>: 2-isobutyramido-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)isonicotinamide (Example 8, single enantiomer)
To a mixture of 2-amino-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)isonicotinamide (25 mg, 0.073 mmol, Step-1, single enantiomer) and pyridine (0.024 mL, 0.29 mmol) in N,N-dimethylacetamide (1 mL) is added isobutyryl chloride (16 mg, 0.15 mmol) at room temperature. After stirring at room temperature for 2 hours, the mixture is poured onto water (2 mL), and the mixture is extracted with ethyl acetate (3 mL). The organic layer is dried over sodium sulfate and concentrated under reduced pressure. The residue is purified by column chromatography on NH-silica gel eluting with ethyl acetate and then by preparative LC-MS to give 12.9 mg (43% yield) of the title compound.

reactant | 2-amino-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)isonicotinamide | 0.073 mmol, 25 mg | NC=1C=C(C(=O)NC(C)C=2C=NC(=CC2)OCC(F)(F)F)C=CN1 | C15H15F3N4O2
reactant | pyridine | 0.29 mmol, 0.024 mL | N1=CC=CC=C1 | C5H5N
reactant | isobutyryl chloride | 0.15 mmol, 16 mg | C(C(C)C)(=O)Cl | C4H7ClO
solvent | N,N-dimethylacetamide | 1 mL | CN(C(C)=O)C | C4H9NO
product | 2-isobutyramido-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)isonicotinamide | 12.9 mg, 43% yield | C(C(C)C)(=O)NC=1C=C(C(=O)NC(C)C=2C=NC(=CC2)OCC(F)(F)F)C=CN1 | C19H21F3N4O3
